US04440779
Ethyl-1,4 dimethyl-5-ethoxycarbonylpyrrole-2-acetate (26.3 g, 0.104 mol) is mixed with triethylamine (7.2 ml, 0.052 mol), pyridine (165 ml, dried over 4 A sieves) and selenium dioxide (12.9 g, 0.115 mol) under nitrogen. The mixture is stirred mechanically and is heated to 95°-100° for 6.5 hours. The reaction is then allowed to cool and the heterogeneous mixture is filtered through a bed of Celite and washed with ether until no further color comes through. The organic solution is then washed with 2 N HCl (4×200 ml), and the combined acid washes are backwashed with ether (150 ml). The combined ether layers are washed with saturated aqueous sodium bicarbonate (100 ml) and saturated brine (150 ml). The ether solution is dried over sodium sulfate and the solvent is removed to give a brown oil which crystallizes on standing. The product is purified by preparative HPLC (4/1 hexanes/ether) to give 14.5 g of ethyl 1,4-dimethyl-5-ethoxycarbonyl-α -oxopyrrole-2-acetate.

reactant | Ethyl-1,4 dimethyl-5-ethoxycarbonylpyrrole-2-acetate | 0.104 mol, 26.3 g | C(C)OC(CC=1N(C(=C(C1)C)C(=O)OCC)C)=O | C13H19NO4
reactant | triethylamine | 0.052 mol, 7.2 ml | C(C)N(CC)CC | C6H15N
reactant | selenium dioxide | 0.115 mol, 12.9 g | [Se](=O)=O | O2Se
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl 1,4-dimethyl-5-ethoxycarbonyl-α -oxopyrrole-2-acetate | 14.5 g | CN1C(=CC(=C1C(=O)OCC)C)C(C(=O)OCC)=O | C13H17NO5
